US05665718
0.94 g (2.5 mmol) of (S)-8-chloro-1-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one was stirred at room temperature overnight with 1 g (17 mmol) of propylamine and 15 ml of N,N-dimethylformamide. By evaporation of the reaction mixture and chromatography of the residue on silica gel while eluting with ethyl acetate/methanol 9/1 there was obtained 0.92 g (92%) of (S)-8-chloro-1-(5-propylaminomethyl-1,2,4-oxadiazol-3-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one of m.p. 237°-239°, which was converted into the hydrochloride.

reactant | (S)-8-chloro-1-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 2.5 mmol, 0.94 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C3=NOC(=N3)CCl)CC1)=O | C16H11Cl2N5O2
reactant | propylamine | 17 mmol, 1 g | C(CC)N | C3H9N
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | (S)-8-chloro-1-(5-propylaminomethyl-1,2,4-oxadiazol-3-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 0.92 g, 92% | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C3=NOC(=N3)CNCCC)CC1)=O | C19H19ClN6O2
